US04441496
90/10 p-Dioxanone/2,5-Morpholinedione copolymer
p-Dioxanone (4.0 g, 0.039 moles), 2,5-morpholinedione (0.5 g, 0.0043 moles) and a catalytic amount of stannous octoate (0.22 ml of a 0.0132 M toluene solution, 0.0000029 moles) are heated and magnetically mixed in a flame and vacuum dried, sealed glass ampoule according to the following temperature/time scheme:

reactant | p-Dioxanone | 0.039 moles, 4.0 g | O1C(COCC1)=O | C4H6O3
reactant | 2,5-morpholinedione | 0.0043 moles, 0.5 g | N1CC(OCC1=O)=O | C4H5NO3
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | 0.0132 M | C1(=CC=CC=C1)C | C7H8
product | p-Dioxanone 2,5-Morpholinedione | O1C(COCC1)=O.N1CC(OCC1=O)=O | InChI=1S/C4H5NO3.C4H6O3/c6-3-2-8-4(7)1-5-3;5-4-3-6-1-2-7-4/h1-2H2,(H,5,6);1-3H2
